*Delay in NOT cell

.model  nmos  nmos level = 54 

+version = 4.0             binunit = 1               paramchk= 1               mobmod  = 0             
+capmod  = 2               igcmod  = 1               igbmod  = 1               geomod  = 1             
+diomod  = 1               rdsmod  = 0               rbodymod= 1               rgatemod= 1             
+permod  = 1               acnqsmod= 0               trnqsmod= 0             

+tnom    = 27              toxe    = toxe_n        toxp    = toxp_par          toxm    = toxm_n      
+dtox    = 2.5e-010        epsrox  = 3.9             wint    = 5e-009          lint    = 1.95e-009     
+ll      = 0               wl      = 0               lln     = 1               wln     = 1             
+lw      = 0               ww      = 0               lwn     = 1               wwn     = 1             
+lwl     = 0               wwl     = 0               xpart   = 0               toxref  = toxref_n         xl      = -14e-9
+dlcig   = 1.95e-009     

+vth0    = 0.3558          k1      = 0.2             k2      = 0               k3      = 0             
+k3b     = 0               w0      = 2.5e-006        dvt0    = 1               dvt1    = 2             
+dvt2    = 0               dvt0w   = 0               dvt1w   = 0               dvt2w   = 0             
+dsub    = 0.078           minv    = 0.05            voffl   = 0               dvtp0   = 1e-011        
+dvtp1   = 0.1             lpe0    = 0               lpeb    = 0               xj      = xj_n        
+ngate   = 1e+023          ndep    = ndep_n        nsd     = 2e+020          phin    = 0             
+cdsc    = 0               cdscb   = 0               cdscd   = 0               cit     = 0             
+voff    = -0.13           nfactor = 2.1             eta0    = 0.005           etab    = 0             
+vfb     = -1.058          u0      = 0.0238          ua      = -5e-010         ub      = 1.7e-018      
+uc      = 0               vsat    = 182130          a0      = 1               ags     = 0             
+a1      = 0               a2      = 1               b0      = 0               b1      = 0             
+keta    = 0.04            dwg     = 0               dwb     = 0               pclm    = 0.06          
+pdiblc1 = 0.001           pdiblc2 = 0.001           pdiblcb = -0.005          drout   = 0.5           
+pvag    = 1e-020          delta   = 0.01            pscbe1  = 2.0e+009        pscbe2  = 1e-007        
+fprout  = 0.2             pdits   = 0.01            pditsd  = 0.23            pditsl  = 2300000       
+rsh     = 5               rdsw    = 80              rsw     = 40              rdw     = 40            
+rdswmin = 0               rdwmin  = 0               rswmin  = 0               prwg    = 0             
+prwb    = 0               wr      = 1               alpha0  = 0.074           alpha1  = 0.005         
+beta0   = 30              agidl   = 0.0002          bgidl   = 2.1e+009        cgidl   = 0.0002        
+egidl   = 0.8             aigbacc = 0.012           bigbacc = 0.0028          cigbacc = 0.002         
+nigbacc = 1               aigbinv = 0.014           bigbinv = 0.004           cigbinv = 0.004         
+eigbinv = 1.1             nigbinv = 3               aigc    = 0.020014        bigc    = 0.0027432     
+cigc    = 0.002           aigsd   = 0.020014        bigsd   = 0.0027432       cigsd   = 0.002         
+nigc    = 1               poxedge = 1               pigcd   = 1               ntox    = 1             
+xrcrg1  = 12              xrcrg2  = 5             

+cgso    = 9e-011          cgdo    = 9e-011          cgbo    = 0               cgdl    = 7.5e-013      
+cgsl    = 7.5e-013        clc     = 1e-007          cle     = 0.6             cf      = 1.1e-010      
+ckappas = 0.6             ckappad = 0.6             vfbcv   = -1              acde    = 1             
+moin    = 15              noff    = 1               voffcv  = 0             

+kt1     = -0.154          kt1l    = 0               kt2     = 0.022           ute     = -1.1          
+ua1     = 1e-009          ub1     = -1e-018         uc1     = -5.6e-011       prt     = 0             
+at      = 33000         

+fnoimod = 1               tnoimod = 0               noia    = 6.25e+041       noib    = 3.125e+026    
+noic    = 8.75e+009       em      = 41000000        af      = 1               ef      = 1             
+kf      = 0               tnoia   = 1.5             tnoib   = 3.5             ntnoi   = 1             

+jss     = 1.2e-006        jsws    = 2.4e-013        jswgs   = 2.4e-013        njs     = 1             
+ijthsfwd= 0.1             ijthsrev= 0.1             bvs     = 10              xjbvs   = 1             
+jsd     = 1.2e-006        jswd    = 2.4e-013        jswgd   = 2.4e-013        xjbvd   = 1             
+pbs     = 1               cjs     = 0.0018          mjs     = 0.5             pbsws   = 1             
+cjsws   = 1.2e-010        mjsws   = 0.33            cjswgs  = 2.1e-010        cjd     = 0.0018        
+cjswd   = 1.2e-010        mjswd   = 0.33            pbswgd  = 1               cjswgd  = 2.1e-010      
+mjswgd  = 0.33            tpb     = 0               tcj     = 0               tpbsw   = 0             
+tcjsw   = 0               tpbswg  = 0               tcjswg  = 0               xtis    = 3             

+dmcg    = 0               dmci    = 0               dmdg    = 0               dmcgt   = 0             
+dwj     = 0               xgw     = 0               xgl     = 0             

+rshg    = 0.4             gbmin   = 1e-010          rbpb    = 5               rbpd    = 15            
+rbps    = 15              rbdb    = 15              rbsb    = 15              ngcon   = 1 

.model  pmos pmos level = 54 

+version = 4.0             binunit = 1               paramchk= 1               mobmod  = 0
+capmod  = 2               igcmod  = 1               igbmod  = 1               geomod  = 1
+diomod  = 1               rdsmod  = 0               rbodymod= 1               rgatemod= 1
+permod  = 1               acnqsmod= 0               trnqsmod= 0

+tnom    = 27              toxe    = toxe_p        toxp    = toxp_par          toxm    = toxm_p
+dtox    = 2.7e-010        epsrox  = 3.9             wint    = 5e-009          lint    = 1.95e-009
+ll      = 0               wl      = 0               lln     = 1               wln     = 1
+lw      = 0               ww      = 0               lwn     = 1               wwn     = 1
+lwl     = 0               wwl     = 0               xpart   = 0               toxref  = toxref_p         xl      = -14e-9
+dlcig   = 1.95e-009

+vth0    = -0.24123        k1      = 0.2             k2      = -0.01           k3      = 0
+k3b     = 0               w0      = 2.5e-006        dvt0    = 1               dvt1    = 2
+dvt2    = -0.032          dvt0w   = 0               dvt1w   = 0               dvt2w   = 0
+dsub    = 0.1             minv    = 0.05            voffl   = 0               dvtp0   = 1e-011
+dvtp1   = 0.05            lpe0    = 0               lpeb    = 0               xj      = xj_p
+ngate   = 1e+023          ndep    = ndep_p        nsd     = 2e+020          phin    = 0
+cdsc    = 0               cdscb   = 0               cdscd   = 0               cit     = 0
+voff    = -0.13           nfactor = 2.1             eta0    = 0.0042          etab    = 0
+vfb     = -1.058          u0      = 0.00306         ua      = -5e-010         ub      = 1.6e-018
+uc      = 0               vsat    = 78000           a0      = 1               ags     = 1e-020
+a1      = 0               a2      = 1               b0      = 0               b1      = 0
+keta    = -0.047          dwg     = 0               dwb     = 0               pclm    = 0.1
+pdiblc1 = 0.001           pdiblc2 = 0.001           pdiblcb = 3.4e-008        drout   = 0.6
+pvag    = 1e-020          delta   = 0.01            pscbe1  = 2e+009          pscbe2  = 9.58e-007
+fprout  = 0.2             pdits   = 0.08            pditsd  = 0.23            pditsl  = 2300000
+rsh     = 5               rdsw    = 80              rsw     = 40              rdw     = 40
+rdswmin = 0               rdwmin  = 0               rswmin  = 0               prwg    = 0
+prwb    = 0               wr      = 1               alpha0  = 0.074           alpha1  = 0.005
+beta0   = 30              agidl   = 0.0002          bgidl   = 2.1e+009        cgidl   = 0.0002
+egidl   = 0.8             aigbacc = 0.012           bigbacc = 0.0028          cigbacc = 0.002
+nigbacc = 1               aigbinv = 0.014           bigbinv = 0.004           cigbinv = 0.004
+eigbinv = 1.1             nigbinv = 3               aigc    = 0.011942        bigc    = 0.0012217
+cigc    = 0.0008          aigsd   = 0.011942        bigsd   = 0.0012217       cigsd   = 0.0008
+nigc    = 1               poxedge = 1               pigcd   = 1               ntox    = 1
+xrcrg1  = 12              xrcrg2  = 5

+cgso    = 9e-011          cgdo    = 9e-011          cgbo    = 0               cgdl    = 3e-011
+cgsl    = 3e-011          clc     = 1e-007          cle     = 0.6             cf      = 1.1e-010
+ckappas = 0.6             ckappad = 0.6             vfbcv   = -1              acde    = 1
+moin    = 15              noff    = 1               voffcv  = 0

+kt1     = -0.14           kt1l    = 0               kt2     = 0.022           ute     = -1.1
+ua1     = 1e-009          ub1     = -1e-018         uc1     = -5.6e-011       prt     = 0
+at      = 33000

+fnoimod = 1               tnoimod = 0               noia    = 6.25e+041       noib    = 3.125e+026
+noic    = 8.75e+009       em      = 41000000        af      = 1               ef      = 1
+kf      = 0               tnoia   = 1.5             tnoib   = 3.5             ntnoi   = 1

+jss     = 2e-007          jsws    = 4e-013          jswgs   = 4e-013          njs     = 1
+ijthsfwd= 0.1             ijthsrev= 0.1             bvs     = 10              xjbvs   = 1
+jsd     = 2e-007          jswd    = 4e-013          jswgd   = 4e-013          xjbvd   = 1
+pbs     = 1               cjs     = 0.0015          mjs     = 0.5             pbsws   = 1
+cjsws   = 9.4e-011        mjsws   = 0.33            cjswgs  = 2e-010          cjd     = 0.0015
+cjswd   = 9.4e-011        mjswd   = 0.33            pbswgd  = 1               cjswgd  = 2e-010
+mjswgd  = 0.33            tpb     = 0               tcj     = 0               tpbsw   = 0
+tcjsw   = 0               tpbswg  = 0               tcjswg  = 0               xtis    = 3

+dmcg    = 0               dmdg    = 0               dmcgt   = 0               xgw     = 0
+xgl     = 0

+rshg    = 0.1             gbmin   = 1e-012          rbpb    = 50              rbpd    = 50
+rbps    = 50              rbdb    = 50              rbsb    = 50              ngcon   = 1      

Mp1	nodeZ	nodea	node1	node1	pmos	W={2*Wmin} L={Lmin} 
Mn2	nodeZ	nodea	0	0	nmos	W={Wmin} L={Lmin}

Vdd	node1 0 pvdd

Vina nodea 0 PULSE(0 pvdd 0.1p 0.1p 10n 20n)

.END